US08232294B2
Step 6) t-Butyl 4-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenylcarbamate
To a suspension of NaH (184 mg, 7.68 mmol) in THF (20 mL) was added 4-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3-fluorobenzenamine (1 g, 2.56 mmol). After stirring at rt for 10 min, (Boc)2O (1.14 mg, 5.12 mol) was added to the suspension. The reaction was continued to stir at rt for 36 h. The reaction was quenched with water (2 mL). The solvent was removed in vacuo, and the residue was partitioned between CH2Cl2 (20 mL) and water (10 mL). The organic layer was separated, dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAC:Hexane=1:5) to afford the title compound as light yellow foam (800 mg, 64%).

reactant | NaH | 7.68 mmol, 184 mg | [H-].[Na+]
reactant | 4-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3-fluorobenzenamine | 2.56 mmol, 1 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)N)F)OC | C23H19FN2O3
reactant | (Boc)2O | 5.12 mol, 1.14 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | t-Butyl 4-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenylcarbamate | 800 mg, 64% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)F)OC | C28H27FN2O5
